Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / Advil / antibiotics - due to C. diff -Must use oral 
vancomycin with ALL ABX
 
Attending: ___
 
___ Complaint:
Altered mental status
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of major 
neurocognitive disorder, orthostatic hypotension, osteoporosis, 
recent admission for fall complicated by subdural hematoma now 
presenting with altered mental status. 

Per ED report, the patient had been doing well at home since 
discharge but the daughter noticed that she was difficult to 
arouse today and has been acting off of her baseline - she is 
more withdrawn and sleeping more. The daughter also notes she is 
eating more than usual but is using her hands and not utensils. 
No additional falls. She also has a new swollen left wrist 
although there is no report of trauma. It is unclear if there is 
pain with movement and extension of her left ring and third 
finger as it is different between providers. She denies fevers, 
chest pain, dyspnea, abdominal pain, diarrhea, urinary changes, 
or weakness. 

In the ED, initial vitals: 97.4 86 129/77 14 98% NC Exam notable 
for: - Gen: well appearing, NAD, follows commands although she 
takes extra time to do so and the daughter says this is not her 
baseline as the patient is normally very talkative and 
interactive, A&Ox2 - Ext: Dorsum of left hand is swollen but 2+ 
pulses. Full ROM of wrist without pain. Possible tenderness 
moving middle and ring fingers Labs notable for: WBC 5.9 Hb 9.6, 
BUN/Cr ___ UA with many bacteria, WBC>182, RBC 136, lg leuks

On arrival to the floor, the patient reports that her daughter 
was worried she was confused. She denies any pain. No headache. 
No fever. No dysuria. No wrist pain. No other complaints at this 
time.
 
Past Medical History:
- Cefepime toxicity requiring Dialysis  
- ___ status epilepticus  
- Subdural hematoma
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- Osteoarthritis  
- shingles infection in ___  
- Orthostatic hypotension
- Asymptomatic bacteriuria
- C. difficile colitis
- Spinal stenosis
- Anxiety
- Dysphagia
- Constipation
- Gait disorder
- Major neurocognitive disorder
- Hypothyroidism
- Osteoporosis                                                   

                 
 
Social History:
___
Family History:
Mother deceased age ___, chronic obstructive pulmonary disease.  
Father deceased age ___, stroke.
 
Physical Exam:
ADMISSION EXAM: 
==============
VITALS: 98.0 128/62 ___ 18 ___ RA 
GENERAL: Alert and in no apparent distress; staples 
clean/dry/intact
EYES: Anicteric, pupils equally round (cataracts bilaterally)
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is ___
GI: Abdomen soft, ___ to palpation. Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs; right wrist and digits 
swollen but nontender to palpation
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self, face symmetric, gaze conjugate 
with EOMI, speech fluent, moves all limbs, sensation to light 
touch grossly intact throughout
PSYCH: Pleasant, appropriate affect

DISCHARGE EXAM: 
==============
VITALS: Afebrile, BP 131/75, HR ___, RR 18, 96% on room air
GENERAL: Awake, alert and in no apparent distress, sitting 
inchair, appears comfortable
HEENT: Sclera anicteric.  Ears and nose without visible 
erythema, masses, or trauma.  Oropharynx without visible lesion, 
erythema or exudate. Moist mucus membranes.  Ecchymosis with 
black scab on right temple.
CV: Heart regular, no murmur, no S3, no S4. 2+ radial pulses 
bilaterally.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is ___ on room air.
GI: Abdomen soft, ___ to palpation.  Bowel 
sounds present.  
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Moves all extremities, no peripheral edema
SKIN: No rashes or ulcerations noted; skin tear on right forearm 
covered with clean dressing; ecchymosis on dorsal left wrist
NEURO: Alert, oriented to first name only, not to time or place; 
face symmetric,
speech fluent, follows simple commands
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
#ADMISSION/SIGNIFICANT LABS: 
___ 08:30PM BLOOD ___ 
___ Plt ___
___ 08:30PM BLOOD ___ 
___, ___ 07:06AM BLOOD ___
============================
#DISCHARGE LABS:
___ 07:05AM BLOOD ___ 
___ Plt ___
___ 07:10AM BLOOD ___ 
___
___ 07:10AM BLOOD ___
============================
#MICRO: 
___ 10:30 pm URINE
   URINE CULTURE (Final ___: 
      PRESUMPTIVE STREPTOCOCCUS BOVIS.    >100,000 CFU/mL. 
___ 8:30 pm BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 
============================
#IMAGING/OTHER STUDIES: 
CT ___ without contrast (___): 
1. No fracture or acute traumatic malalignment. 2. Severe 
degenerative changes within the cervical spine, similar compared 
to prior, as described above. Moderate to severe spinal canal 
narrowing at ___. 3. 1.5 cm hypodense nodule within right lobe 
of the thyroid. Thyroid ultrasound is recommended.

___ CT head (___): 
1. There is a hyperdense subdural hematoma abutting the right 
tentorial leaflet measuring up to 2 mm. While this was not seen 
on CT head ___, this is likely due to redistribution 
from patient's other foci of intracranial hemorrhage. 2. Right 
frontal subdural hematoma and left frontal subarachnoid hematoma 
are decreased in size from ___. 

CXR (___): 
Focal opacity at the left lung base which could represent 
pneumonia in the proper clinical setting. 

Left wrist/hand ___ (___): 
1. No acute fracture. 2. As seen on recent prior study, there 
are severe degenerative changes as previously detailed. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of major 
neurocognitive disorder, orthostatic hypotension, osteoporosis, 
recent admission for fall complicated by subdural hematoma now 
presenting with altered mental status. 

# Encephalopathy 
# Major cognitive decline: 
Patient with history of significant cognitive decline likely due 
to late onset Alzheimer disease. Per prior notes, AOx1 at 
baseline. Cognitive decline complicated by impulsive behavior, 
agitation at night. Patient presented with question of acute on 
chronic encephalopathy as manifested by increased lethargy, new 
behaviors (such as eating with hands and not utensils), as well 
as no longer recognizing family members. Although difficult to 
exclude progression of underlying advanced Alzheimer's, 
particularly in setting of recent SDH, the acuity of the change 
in addition to features of waxing/waning alertness is consistent 
with a superimposed delirium. While patient does have a history 
NSCE, patient without witnessed unresponsive episodes. NCHCT 
this admission with evolving prior SDH and SAH but no acute 
process. CXR with LLL opacity but patient without clinical 
evidence of pneumonia. No fevers or leukocytosis, and no 
apparent signs or symptoms of overt infection, however, in 
setting of advanced dementia, eliciting symptoms was 
challenging. She seemed back to baseline mental status (oriented 
to person only) and energy level (accordingly to family 
including granddaughter who is HCP) at discharge.  Her home 
Tramadol was held during admission due to concern that it could 
be causing drowsiness and not resumed on discharge.  She did not 
appear to be in pain and plan was discussed with her healthcare 
proxy to discuss the Tramadol further with PCP.

#Urinary tract infection:
Given her markedly positive UA, and possible endorsement of 
urinary frequency, she was initiated on Ceftriaxone for 
treatment of UTI. Urine Cx ultimately grew Strep Bovis and she 
completed a five day course of Ceftriaxone on ___.  She had 
no reported symptoms, but eliciting history was extremely 
difficult due to her dementia, so it was difficult to follow 
clinical response.  She remained afebrile without leukocytosis.

# Recent fall with subdural hematoma: 
___ this admission with evolution of hematoma, thought to be 
due to redistribution of blood products. Overall SDH resorbing 
and no evidence of mass efffect. She completed a 7 day course of 
Keppra for seizure ppx. SDH thought to be unlikely cause of AMS 
as noted interval improvement on CT scans. Some component of 
increased lethargy may be due to side effect of keppra, which 
she is now no longer taking as of ___. 

# Wrist swelling: 
Patient's left wrist and fingers were edematous. Neurovascularly 
intact, motor function grossly intact (patient squeezes to 
command). No apparent pain or tenderness. Per ACS note from 
prior admission, patient had swelling of left third finger. No 
evidence of cellulitis. No fracture on admission ___. 

CHRONIC/STABLE PROBLEMS: 
# Orthostatic hypotension: Encouraged oral hydration and she was 
continued on home fludricortisone.  Home salt tabs were held and 
recommended to discuss with her PCP on discharge.

# Osteoporosis: 
Patient is followed as outpatient by endocrinology. On Prolia 
every 6 months. Continued home calcium and vitamin D. 

# Subclinical Hypothyroidism: 
# Thyroid nodules: 
She was noted on prior imaging to have multinodular thyroid 
gland for which thyroid ultrasound was recommended for further 
evaluation, however, given patient's age and cognitive decline 
this was not pursued. TSH within normal limits. 

TRANSITIONAL ISSUES: 
==================
- Advised patient's HCP to discuss the salt tabs and Tramadol 
with PCP
- ___ was discharged home with home ___.  ___ had recommended 
rehab, but her HCP (after long discussion) decided home with 
services would be better.
- Confirmed with her HCP (granddaughter) ___ that 
the patient is DNR/DNI.  MOLST was completed.
- Blood cultures from admission ___ were still not finalized 
at discharge, but had no growth to date as of ___.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO ASDIR 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. Polyethylene Glycol 17 g PO DAILY 
5. TraMADol 50 mg PO QID 
6. TraZODone 50 mg PO QHS 
7. Calcium 600 + D(3) (calcium ___ D3) 600 
mg(1,500mg) -400 unit oral BID 
8. cranberry extract ___ mg oral BID 
9. diclofenac sodium 1 % topical QID:PRN pain 
10. Sodium Chloride 1 gm PO ASDIR 
11. vancomycin 125 mg oral ASDIR 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Calcium 600 + D(3) (calcium ___ D3) 600 
mg(1,500mg) -400 unit oral BID  
3.  cranberry extract ___ mg oral BID  
4.  diclofenac sodium 1 % topical QID:PRN pain  
5.  Fludrocortisone Acetate 0.1 mg PO DAILY  
6.  Lidocaine 5% Patch 1 PTCH TD QAM  
7.  Polyethylene Glycol 17 g PO DAILY  
8.  TraZODone 50 mg PO QHS  
9. HELD- Sodium Chloride 1 gm PO ASDIR  This medication was 
held. Do not restart Sodium Chloride until discuss with your 
primary doctor
10. HELD- TraMADol 50 mg PO QID  This medication was held. Do 
not restart TraMADol until discuss with your primary doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Altered mental status
# Urinary tract infection
# Fall
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___ 
___. You were admitted for worsening lethargy and 
confusion. After an extensive workup, the only possible etiology 
determined to explain your symptoms is a urinary tract 
infection. You were treated with antibiotics for 5 days and 
seemed to have improvement in confusion and energy level.

Please continue to take all medications as prescribed. We 
recommend no longer taking the medication tramadol as this 
medication can cause confusion and lethargy in some people. 

You were also evaluated by physical therapy due to history of 
falls and we are setting you up to have physical therapy in your 
home.  You had wrist pain but fortunately an ___ showed there 
was no fracture.

We wish you the best!

Sincerely, 
Your ___ team 
 
Followup Instructions:
___